US07855292B2
E. (2R,3R)-1-(tert-Butyl-dimethyl-silyloxy)-3-(3,4-dichloro-phenyl)-2-methanesulfonyloxy-butane
To a solution of (2R,3R)-1-(tert-butyl-dimethyl-silyloxy)-3-(3,4-dichloro-phenyl)-butan-2-ol (4.63 g, 13.2 mmol) in DCM (44 mL) at 0° C. were added Et3N (4.6 mL, 33.0 mmol), DMAP (81.0 mg, 0.7 mmol), and MsCl (2.2 ml, 28.4 mmol). The mixture was stirred overnight at rt. The reaction was quenched with water (100 mL) and extracted with DCM (3×). The combined organic layers were dried (Na2SO4) and concentrated to yield an orange oil. The product was purified by flash chromatography (Et2O/hexanes) to afford 4.99 g (88%) of the desired product as a colorless liquid. 1H NMR (400 MHz, CDCl3): 7.39 (d, J=8.3, 1H), 7.35 (d, J=2.1, 1H), 7.12 (dd, J=8.3, 2.1, 1H), 4.72-4.69 (m, 1H), 3.71 (dd, J=11.4, 5.7, 1H), 3.64 (dd, J=11.4, 4.3, 1H), 3.24-3.18 (m, 1H), 2.81 (s, 3H), 1.36 (d, J=7.2, 3H), 0.90 (s, 9H), 0.06 (s, 3H), 0.06 (s, 3H).

reactant | (2R,3R)-1-(tert-butyl-dimethyl-silyloxy)-3-(3,4-dichloro-phenyl)-butan-2-ol | 13.2 mmol, 4.63 g | C(C)(C)(C)[Si](OC[C@@H]([C@H](C)C1=CC(=C(C=C1)Cl)Cl)O)(C)C | C16H26Cl2O2Si
reactant | Et3N | 33.0 mmol, 4.6 mL | CCN(CC)CC | C6H15N
reactant | MsCl | 28.4 mmol, 2.2 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 44 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.7 mmol, 81.0 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (2R,3R)-1-(tert-Butyl-dimethyl-silyloxy)-3-(3,4-dichloro-phenyl)-2-methanesulfonyloxy-butane | 4.99 g, 88% | C(C)(C)(C)[Si](OC[C@@H]([C@H](C)C1=CC(=C(C=C1)Cl)Cl)OS(=O)(=O)C)(C)C | C17H28Cl2O4SSi
